US07910592B2
Step C: (4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-3-[(3-hydroxypyrazin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a cold (−78° C.) mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-methoxypyrazin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (1000 mg, 2.297 mmol) in CH2Cl2 (3 mL) was added BBr3 (11.49 mL, 11.49 mmol) dropwise through an addition funnel. The resulting mixture was stirred cold (−78° C.) for 1 h then allowed to warmed to room temperature overnight. The reaction was not completed after overnight stirring. The reaction mixture was stirred at room temperature for 4 more days and LCMS of aliquot indicated completion of reaction. The crude mixture was poured into crushed ice. The resulting organic layer was separated. The aqueous phase was back extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and evaporated to give a glass. This glass was purified by flash chromatography (SiO2, Biotage 40M cartridge). The column was eluted with a EtOAc/CH2Cl2 gradient mixture (0% to 100%). Related fractions were pooled and evaporated to afford a yellow solid as the titled compound. LCMS calc.=421.09; found=421.95 (M+H)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-methoxypyrazin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 2.297 mmol, 1000 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC=CN=C1OC)C)(F)F | C18H15F6N3O3
reactant | BBr3 | 11.49 mmol, 11.49 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-3-[(3-hydroxypyrazin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC=CN=C1O)C)(F)F | C17H13F6N3O3
